US06004486
In a 100-mL flask, the following mixture is heated at 120° C. for 24 h: 12 g 3,4-dimethylaniline, 11 g 2-methylcyclohexanone and 12 g benzotriazole. The 2-methylcyclohexyl-2,4-dimethylphenylamine is isolated after reduction, as in step 1 of Example 1. 18 g of an oily product are isolated.

reactant | 3,4-dimethylaniline | 12 g | CC=1C=C(N)C=CC1C | C8H11N
reactant | 2-methylcyclohexanone | 11 g | CC1C(CCCC1)=O | C7H12O
reactant | benzotriazole | 12 g | N1N=NC2=C1C=CC=C2 | C6H5N3
product | 2-methylcyclohexyl-2,4-dimethylphenylamine | CC1C(CCCC1)NC1=C(C=C(C=C1)C)C | C15H23N
